US05221665
N-CBZ-L-Valyl-N-(cyclopentyl)glycine.
N-CBZ-L-Valyl-N-(cyclopentyl)glycine ethyl ester (4.8 g, 0.0119 mol) was dissolved in ethanol (60 mL) and treated with 1N KOH (12.5 mL) in portions of 3 mL. After the mixture was allowed to stir at room temperature over night the ethanol was removed under vacuum, and the residue was treated with water. The residue was extracted three times with ethyl acetate and afterwards the aqueous layer was acidified with dilute HCl. The product was extracted into ethyl acetate and then washed with saturated aqueous sodium chloride. After drying over MgSO<, filtration and evaporation under reduced pressure afforded the product as a white semisolid (2.6 g).

reactant | N-CBZ-L-Valyl-N-(cyclopentyl)glycine ethyl ester | 0.0119 mol, 4.8 g | C(C)OC(CN(C1CCCC1)C([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C22H32N2O5
reactant | KOH | 1N, 12.5 mL | [OH-].[K+]
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | N-CBZ-L-Valyl-N-(cyclopentyl)glycine | 2.6 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)N(CC(=O)O)C1CCCC1 | C20H28N2O5
